US06153726
In a preferred specific form of the invention 9-nitroanthracene is reacted with hydrated tin chloride and acetic acid in the presence of concentrated HCl to produce an aqueous solution of 9-aminoanthracene hydrochloride salt, and the solution is stirred in air at room temperature while 5% aqueous ammonia solution is added slowly until the pH rises to 1.8 to 2.0, the solution is stirred at this pH for at least 5 minutes and then further 5% aqueous ammonia is added slowly to bring the pH up to the range 5.8 to 6.0 and the stirring is continued at that pH for 3 to 6 hours and then further 5% aqueous ammonia is added to bring the pH into the range 8.5 to 9.0 with continued stirring, and the yellow solid which precipitates out is recovered.

reactant | 9-nitroanthracene | [N+](=O)([O-])C=1C2=CC=CC=C2C=C2C=CC=CC12 | C14H9NO2
reactant | HCl | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 9-aminoanthracene hydrochloride salt | Cl.NC=1C2=CC=CC=C2C=C2C=CC=CC12 | InChI=1S/C14H11N.ClH/c15-14-12-7-3-1-5-10(12)9-11-6-2-4-8-13(11)14;/h1-9H,15H2;1H
